US07410984B2
3-(4-Hydroxymethylphenyl)propionic acid ethyl ester (P5)
3-(4-Hydroxymethylphenyl)acrylic acid ethyl ester (P4, 3 g, 14.5 mmol) and palladium on charcoal (0.3 g) in ethanol (30 mL) was stirred for 4 hours under atmospheric pressure of hydrogen. The reaction mixture was filtered through celite (Diatomaceous Earth) and concentrated to afford the title compound as an oil.

reactant | 3-(4-Hydroxymethylphenyl)acrylic acid ethyl ester | 14.5 mmol, 3 g | C(C)OC(C=CC1=CC=C(C=C1)CO)=O | C12H14O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-(4-Hydroxymethylphenyl)propionic acid ethyl ester | C(C)OC(CCC1=CC=C(C=C1)CO)=O | C12H16O3
